US04628087
Preparation of methylsulphinyl-benzene (C6H5 --SO--CH3)
To a solution of methyl-phenyl-sulphide (6.2 g) in water (2 ml) and dioxane (98 ml), stirred at 20° C. (external bath), sodium hypochlorite (88.69 g, titre 4.19%, pH 12.5) is added in 30 minutes.

reactant | methyl-phenyl-sulphide | 6.2 g | CSC1=CC=CC=C1 | C7H8S
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | dioxane | 98 ml | O1CCOCC1 | C4H8O2
product | methylsulphinyl-benzene | CS(=O)C1=CC=CC=C1 | C7H8OS
